US06541505B1
N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-(2-morpholin-4-yl-pyrimidin-4-yl)-benzamide.
Using morpholine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. 1H NMR (DMSO) δ 2.98 (bt, 2H, J=7 Hz); 3.56 (m, 2H); 3.70 (bs, 4H); 3.79 (bs, 4H); 7.18 (d, 1H, J=9 Hz); 7.32 (d, 1H, J=5 Hz); 7.49 (m, 2H); 7.94 (d, 2H, J=8 Hz); 8.22 (m, 3H); 8.50 (d, 1H, J=5 Hz); 8.74 (bt, 1H); 12.20 (bs, 1H). MS (ion spray) m/z 453 (M+H)+.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-(2-morpholin-4-yl-pyrimidin-4-yl)-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)N1CCOCC1)=O | C26H24N6O2
